US04568695
2-Amino-3-[hydroxy(phenyl)methyl]benzeneethanol
A suspension of 5.5 g (0.145 mole) of lithium aluminum hydride in 60 ml of dry tetrahydrofuran was treated with 19.4 g (0.0685 mole) of 2-amino-3-benzoyl benzeneacetic acid, ethyl ester dissolved in 120 ml of dry tetrahydrofuran stirred under nitrogen. After addition was complete, the mixture was continued at reflux for 2 hours. The mixture was then cooled, treated with successive additions of 5.5 ml of water, 5.5 ml of 15% sodium hydroxide and 16.5 ml of water. The mixture was then filtered, the filtrate stripped and the residue recrystallized from toluene. The titled compound (10.2 g) was obtained as pinkish needles,

reactant | lithium aluminum hydride | 0.145 mole, 5.5 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-amino-3-benzoyl benzeneacetic acid, ethyl ester | 0.0685 mole, 19.4 g | NC1=C(C=CC=C1C(C1=CC=CC=C1)=O)CC(=O)OCC | C17H17NO3
reactant | water | 5.5 ml | O | H2O
reactant | sodium hydroxide | 5.5 ml | [OH-].[Na+]
reactant | water | 16.5 ml | O | H2O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
product | 2-Amino-3-[hydroxy(phenyl)methyl]benzeneethanol | 10.2 g | NC1=C(C=CC=C1C(C1=CC=CC=C1)O)CCO | C15H17NO2
